US06610707B1
2-[4-(3-[1-(1H-Benzo[d]imidazol-2-ylsulfonyl)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethyl)phenoxy]ethylamine
The title compound was prepared by a similar method to Example 27 from benzyl N-(2-[4-(3-[1-(1H-benzo[d]imidazol-2-ylsulfonyl)2-piperidyl]-1,2,4-oxadiazol-5-yl methyl)phenoxy]ethyl)carbamate [see Preparation 56] and 45% w/w hydrogen bromide in glacial acetic acid to afford 2-[4-(3-[1-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethyl)phenoxy]ethylamine as a white solid.

reactant | benzyl N-(2-[4-(3-[1-(1H-benzo[d]imidazol-2-ylsulfonyl)2-piperidyl]-1,2,4-oxadiazol-5-yl methyl)phenoxy]ethyl)carbamate | N1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CCCC2)C2=NOC(=N2)CC2=CC=C(OCCNC(OCC1=CC=CC=C1)=O)C=C2 | C31H32N6O6S
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[4-(3-[1-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethyl)phenoxy]ethylamine | N1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CCCC2)C2=NOC(=N2)CC2=CC=C(OCCN)C=C2 | C23H26N6O4S
